US08431575B2
A mixture of (4,4-difluoro-piperidin-3-yl)-methanol chloride (2.6 mmol, 0.4 g), Boc anhydride (3.2 mmol, 0.7 g) in 6 mL of saturated sodium bicarbonate and 12 mL of DCM was stirred at room temperature for 2 h. The mixture was evaporated, diluted with DCM, washed with brine, dried, evaporated, and the resulting residue was chromatographed with 20:1 hexane/EtOAc afforded 4,4-difluoro-3-hydroxymethyl-piperidine-1-carboxylic acid tert-butyl ester (520 mg).

reactant | (4,4-difluoro-piperidin-3-yl)-methanol chloride | 2.6 mmol, 0.4 g | [Cl-].FC1(C(CNCC1)CO)F
reactant | Boc anhydride | 3.2 mmol, 0.7 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | sodium bicarbonate | 6 mL | C([O-])(O)=O.[Na+]
solvent | DCM | 12 mL | C(Cl)Cl | CH2Cl2
product | 4,4-difluoro-3-hydroxymethyl-piperidine-1-carboxylic acid tert-butyl ester | 520 mg | C(C)(C)(C)OC(=O)N1CC(C(CC1)(F)F)CO | C11H19F2NO3
